US04001245
A. 10,10a-Dihydro-1H,5H-imidazo[1,5-b]isoquinolin-1,3(2H)-dione
To a suspension of 53.1 g (0.30 mole) of 1,2,3.4-tetrahydroisoquinoline-3-carboxylic acid in 1000 ml glacial acetic acid was added quickly a solution of 48.6 g (0.60 mole) of potassium cyanate in 150 ml water. The mixture was stirred and heated on a steam bath at 90°-95° for 90 min and all solids dissolved. 3N hydrochloric acid (2400 ml) was added and the resulting solution was stirred and refluxed for 20 hr. The solution was filtered while hot through a coarse sintered glass funnel to remove mechanical impurities and the filtrate was stored in the refrigerator for 18 hrs to deposit 44 g of the crude product. Recrystallization from 1400 ml alcohol gave 29.9 g (49%) of the cyclized material, m.p. 225°-231°. Further recrystallization from alcohol gave the analytical sample, m.p. 227°-230°.

reactant | 1,2,3.4-tetrahydroisoquinoline-3-carboxylic acid | 0.30 mole, 53.1 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | potassium cyanate | 0.60 mole, 48.6 g | [O-]C#N.[K+]
reactant | hydrochloric acid | 3N, 2400 ml | Cl | ClH
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
solvent | water | 150 ml | O | H2O
product | 10,10a-Dihydro-1H,5H-imidazo[1,5-b]isoquinolin-1,3(2H)-dione | 29.9 g, 49% | C1(NC(N2CC=3C=CC=CC3CC21)=O)=O | C11H10N2O2
